US04234594
2-(1-Isopropyl-3-methyl-5-pyrazolyl) amino-2-imidazoline
1-acetyl-2-(1-isopropyl-3-methyl-5-pyrazolyl) amino-2-imidazoline (14.0 g.) was treated with HCl in methanol as described in Example II to give 9.05 g of product, mp 173°-175° C.

reactant | 1-acetyl-2-(1-isopropyl-3-methyl-5-pyrazolyl) amino-2-imidazoline | 14.0 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C(C)C)C | C12H19N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(1-Isopropyl-3-methyl-5-pyrazolyl) amino-2-imidazoline | 9.05 g | C(C)(C)N1N=C(C=C1NC=1NCCN1)C | C10H17N5
